US08357694B2
(S)—N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using (S)-4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, N-methylbutan-1-amine and triethylamine as described in general procedure 2 to give a yellow solid. M.p.=75-77° C. 1H NMR 400 MHz (DMSO-d6) δ 9.90 (s, br, 1H), 9.59 (s, 1H), 8.30 (m, 2H), 7.79 (d, J=8.4 Hz, 2H), 7.50-7.44 (m, 2H), 7.31 (m, 2H), 7.22 (d, J=8.8 Hz, 2H), 7.10 (m, 4H), 4.42 (t, J=5.6 Hz, 1H), 3.28-2.86 (m, 8H), 2.78 (d, J=5.2 Hz, 3H), 1.67-1.59 (m, 2H), 1.33-1.27 (m, 2H), 0.90 (t, J=7.2 Hz, 3H). LCMS m/e 497 (M+H).

reactant | (S)-4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC=C(C=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | N-methylbutan-1-amine | CNCCCC | C5H13N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)—N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.C(CCC)N(CCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC=C(C=C1)Cl)C=CC=C3)C | InChI=1S/C31H33ClN4.ClH/c1-3-4-18-36(2)19-17-22-9-15-26(16-10-22)34-31-33-21-24-20-29(23-11-13-25(32)14-12-23)27-7-5-6-8-28(27)30(24)35-31;/h5-16,21,29H,3-4,17-20H2,1-2H3,(H,33,34,35);1H/t29-;/m0./s1
